US06441189B1
A mixture of magnesium (3.25 g) in THF (25 mL) at room temperature was treated with several drops of 1-bromo-4-(trifluoromethoxy)benzene, stirred for several minutes, treated with THF (100 mL), treated with 1-bromo-4-(trifluoromethoxy)benzene (30.8 g), heated to reflux, stirred for 16 hours, treated with triisopropyl borate (34 mL) over 10 minutes, stirred for 1 hour, cooled to 0° C., treated with 6M HCl (50 mL), stirred for 45 minutes, and extracted with isopropyl acetate. The extract was washed with brine, filtered, and concentrated to provide 21.5 g of 4-(trifluoromethoxy)phenylboronic acid.

reactant | magnesium | 3.25 g | [Mg] | Mg
reactant | 1-bromo-4-(trifluoromethoxy)benzene | 30.8 g | BrC1=CC=C(C=C1)OC(F)(F)F | C7H4BrF3O
reactant | triisopropyl borate | 34 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 6M, 50 mL | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | 1-bromo-4-(trifluoromethoxy)benzene | several drops | BrC1=CC=C(C=C1)OC(F)(F)F | C7H4BrF3O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(trifluoromethoxy)phenylboronic acid | 21.5 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
